US09029405B2
Step 2: tert-butyl N-[1-(4-cyanophenyl)ethyl]-N-methylglycinate
The title compound was prepared following the general procedure 11 starting from 4-[1-(methylamino)ethyl]benzonitrile and tert-butyl bromoacetate. It was isolated as a colorless oil. 1H NMR (DMSO-d6, 300 MHz) δ 7.79 (d, J=8.4 Hz, 2H), 7.54 (d, J=8.2 Hz, 2H), 3.89 (q, J=6.7 Hz, 1H), 3.27 (d, J=16.7 Hz, 1H), 3.07 (d, J=16.7 Hz, 1H), 2.21 (s, 3H), 1.41 (s, 9H), 1.26 (d, J=6.8 Hz, 3H). HPLC (Method A) Rt 2.83 min (Purity: 96.8%).

reactant | 4-[1-(methylamino)ethyl]benzonitrile | CNC(C)C1=CC=C(C#N)C=C1 | C10H12N2
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | tert-butyl N-[1-(4-cyanophenyl)ethyl]-N-methylglycinate | C(#N)C1=CC=C(C=C1)C(C)N(CC(=O)OC(C)(C)C)C | C16H22N2O2
